US04985419
A suspension of cyclopropylmethylamine hydrochloride (5.4 g) dispersed in ethanol (25 cc) containing 10-[(2RS)-1-dimethylamino-2-propyl]-2-phenothiazinecarbothioamide (3.43 g) is added to a 0.05 M solution of sodium ethylate in ethanol (10 cc). The mixture is brought to 200° C. for 5 hours and then diluted with ethyl acetate (150 cc), washed with distilled water (2×100 cc), dried over magnesium sulphate and then concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 50° C. The residual solid is purified by chromatography on a column (height: 18 cm; diameter: 2.5 cm) of silica gel (0.6-0.02 mm), eluting with mixtures of ethyl acetate and cyclohexane in proportions (by volume) of 30:70 (2.5 liters) and 50:50 (1.1 liters), collecting 60-cc fractions. Fractions 50 to 59 are combined and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 50° C. to give N-cyclopropylmethyl-10-[(2RS)-1-dimethylamino-2-propyl]-2-phenothiazinecarboxamide (0.42 g), m.p. 90° C.

reactant | cyclopropylmethylamine hydrochloride | 5.4 g | Cl.C1(CC1)CN
reactant | 10-[(2RS)-1-dimethylamino-2-propyl]-2-phenothiazinecarbothioamide | 3.43 g | CN(CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C(N)=S)C | C18H21N3S2
reactant | sodium ethylate | CC[O-].[Na+]
solvent | ethanol | 25 cc | C(C)O | C2H6O
solvent | ethanol | 10 cc | C(C)O | C2H6O
solvent | ethyl acetate | 150 cc | C(C)(=O)OCC | C4H8O2
product | N-cyclopropylmethyl-10-[(2RS)-1-dimethylamino-2-propyl]-2-phenothiazinecarboxamide | 0.42 g | C1(CC1)CNC(=O)C1=CC=2N(C3=CC=CC=C3SC2C=C1)C(CN(C)C)C | C22H27N3OS
